US04599335
A solution of 14.4 g of 1-methyl-4-[3-(4-tert.-butylphenyl)-2-methylpropyl]-piperazine and 10.3 g of benzyl bromide in 200 ml of ethyl acetate was refluxed for 6 hours, after which the mixture was evaporated down to 80 ml and then cooled to +5° C. The precipitated product was filtered off under suction, washed with ether and dried. 18.4 g of 1-methyl-1-benzyl-4-[3-(4-tert.-butylphenyl)-2-methylpropyl]-piperazinium bromide were obtained in the form of colorless crystals of melting point 216° C. (compound 3).

reactant | 1-methyl-4-[3-(4-tert.-butylphenyl)-2-methylpropyl]-piperazine | 14.4 g | CN1CCN(CC1)CC(CC1=CC=C(C=C1)C(C)(C)C)C | C19H32N2
reactant | benzyl bromide | 10.3 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 1-methyl-1-benzyl-4-[3-(4-tert.-butylphenyl)-2-methylpropyl]-piperazinium bromide | 18.4 g | [Br-].C[N+]1(CCN(CC1)CC(CC1=CC=C(C=C1)C(C)(C)C)C)CC1=CC=CC=C1 | InChI=1S/C26H39N2.BrH/c1-22(19-23-11-13-25(14-12-23)26(2,3)4)20-27-15-17-28(5,18-16-27)21-24-9-7-6-8-10-24;/h6-14,22H,15-21H2,1-5H3;1H/q+1;/p-1
